US05312829
A mixture of ethyl 4-[3-(3-aminobenzoyl)indol-1-yl]-butyrate (176 mg), 1-(1-bromohexyl)-4-isobutylbenzene (233 mg) and diisopropytethylamine (194 mg) in dichloromethane (5 ml) was refluxed for 20 hours. The reaction mixture was poured into a mixture of ethyl acetate and water. The organic layer was separated and washed-with water and brine, dried over magnesium sulfate and evaporated. The residue was chromatographed on silica gel column eluting with a mixture of n-hexane-and ethyl acetate (3:1) to give ethyl 4-[3-[3-[1-(4-isobutylphenyl)hexylamino]benzoyl]-indol-1-yl]butyrate (155 mg) as an oil.

reactant | ethyl 4-[3-(3-aminobenzoyl)indol-1-yl]-butyrate | 176 mg | NC=1C=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)OCC)C=CC1 | C21H22N2O3
reactant | 1-(1-bromohexyl)-4-isobutylbenzene | 233 mg | BrC(CCCCC)C1=CC=C(C=C1)CC(C)C | C16H25Br
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | ethyl 4-[3-[3-[1-(4-isobutylphenyl)hexylamino]benzoyl]-indol-1-yl]butyrate | 155 mg | C(C(C)C)C1=CC=C(C=C1)C(CCCCC)NC=1C=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)OCC)C=CC1 | C37H46N2O3
